US07091220B2
The reaction of 6.9 ml (0.084 mol) pyrrolidine and 4.8 g (0.035 mol) 2-methoxybenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 2.1 ml (0.035 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 6.2 g (corresponding to 78% of the yield calculated by theory) 1-(2-methoxy-benzylidene)-pyrrolidinium chloride.

reactant | pyrrolidine | 0.084 mol, 6.9 ml | N1CCCC1 | C4H9N
reactant | 2-methoxybenzaldehyde | 0.035 mol, 4.8 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | acetyl chloride | 0.035 mol, 2.1 ml | C(C)(=O)Cl | C2H3ClO
product | 1-(2-methoxy-benzylidene)-pyrrolidinium chloride | [Cl-].COC1=C(C=[N+]2CCCC2)C=CC=C1 | InChI=1S/C12H16NO.ClH/c1-14-12-7-3-2-6-11(12)10-13-8-4-5-9-13;/h2-3,6-7,10H,4-5,8-9H2,1H3;1H/q+1;/p-1
